US05466689
4-Acetylamino-3,4-dihydro-1-(2,4,6-triisopropylphenylsulfonyl)benz[cd]indol-5(1H)-one
A solution of 4-azido-3,4-dihydro-1-(2,4,6-triisopropylphenylsulfonyl)benz[cd]indol-5(1H)-one (5.36 g, 11.2 mmol), acetic anhydride (2.29 g, 22.4 mmol) and 10% Pd-C (1.7 g in THF (60 ml) was stirred for 4 hours at 4 hours under 4 atmospheres pressure under hydrogen atmosphere. After completion of the reaction, the catalyst was filtered off. The filtrate was concentrated under reduced pressure. To the concentrate was added isopropyl ether to give 5.03 g (91%) of the title compound.

reactant | 4-azido-3,4-dihydro-1-(2,4,6-triisopropylphenylsulfonyl)benz[cd]indol-5(1H)-one | 11.2 mmol, 5.36 g | N(=[N+]=[N-])C1C(C=2C=3C(=CN(C3C=CC2)S(=O)(=O)C2=C(C=C(C=C2C(C)C)C(C)C)C(C)C)C1)=O | C26H30N4O3S
reactant | acetic anhydride | 22.4 mmol, 2.29 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 60 ml | C1CCOC1 | C4H8O
catalyst | Pd-C | [Pd] | Pd
product | 4-Acetylamino-3,4-dihydro-1-(2,4,6-triisopropylphenylsulfonyl)benz[cd]indol-5(1H)-one | 5.03 g, 91% | C(C)(=O)NC1C(C=2C=3C(=CN(C3C=CC2)S(=O)(=O)C2=C(C=C(C=C2C(C)C)C(C)C)C(C)C)C1)=O | C28H34N2O4S
